US09023847B2
To a solution of benzylamine (99 μl; 98 mg; 0.91 mmol) in anhydrous toluene (3 mL) placed in a sealed tube under nitrogen was added a solution of trimethylaluminum (365 μl; 2 M; 0.73 mmol) in toluene. The colorless solution was stirred at 25° C. for 1 h, before 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester (50 mg; 0.18 mmol) was added and the resulting yellow suspension was heated to 105° C. overnight. The reaction mixture was allowed to cool down before water (0.1 mL) was added. The resulting blue suspension was stirred at 25° C. for 2 h, diluted with methanol and purified by chromatography on a SP1 Biotage system, using dichloromethane and methanol as eluents to afford 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide (26 mg, 39%) as a gray solid (HPLC: 95%, RT: 6.04 min). 1H NMR (DMSO-d6) 11.96 (br s, 1H), 11.39 (s, 1H), 8.82 (t, J=5.9 Hz, 1H), 8.50 (d, J=5.1 Hz, 1H), 8.38 (s, 1H), 7.79 (d, J=5.5 Hz, 1H), 7.36-7.33 (m, 5H), 7.27-7.22 (m, 1H), 6.43 (dd, J=3.3, 1.8 Hz, 1H), 4.50 (d, J=5.9 Hz, 2H); MS (m/z) 350 [M+H]+.

reactant | benzylamine | 0.91 mmol, 99 μl, 98 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | trimethylaluminum | 0.73 mmol, 2 M, 365 μl | C[Al](C)C
reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester | 0.18 mmol, 50 mg | COC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C12H10N4O2S
reactant | water | 0.1 mL | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide | 26 mg, 39% | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C18H15N5OS
